US06498161B1
Step A: 4-(N-(2-Phenylethyl)amino)-1-(tert-butoxycarbonyl)piperidine
To a solution of tert-butyl-4-oxo-1-piperidinecarboxylate in methylene chloride was added 2-phenethylamine, NaBH(OAc)3 and HOAc. The mixture was stirred at ambient temperature for 16 hours and quenched by addition of H2O. The aqueous layer was neutralized with NaHCO3 and extracted with CH2Cl2. The combined organic layer was washed with saturated NaHCO3 and brine and dried over MgSO4. Evaporation of solvent gave an off-white solid. This material was used without further purification. ESI-MS 305 (M+H); HPLC A: 2.54 min.

reactant | tert-butyl-4-oxo-1-piperidinecarboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | 2-phenethylamine | C1=CC=C(C=C1)CCN | C8H11N
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | HOAc | CC(=O)O | C2H4O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(N-(2-Phenylethyl)amino)-1-(tert-butoxycarbonyl)piperidine | C1(=CC=CC=C1)CCNC1CCN(CC1)C(=O)OC(C)(C)C | C18H28N2O2
